US04521241
4-Nitrobenzo[c]thiophene-1(3H)-one (38.1 g) was added portionwise to a solution of 146.0 g of stannous chloride dihydrate in 325 ml concentrated hydrochloric acid. A slow exotherm from 18° to 42° occurred and the reaction mixture was maintained at 40°-45° by cooling. When the exotherm subsided, the suspension was stirred while cooling to ambient temperature (3.5 hours). The solid was collected, washed with a small volume of cold concentrated hydrochloric acid, then dried under nitrogen to give 57.7 g of crude 1,3-dihydro-1-oxobenzo[c]thiophene-4-amine hydrochloride, m.p. 205° (d).

reactant | 4-Nitrobenzo[c]thiophene-1(3H)-one | 38.1 g | [N+](=O)([O-])C1=CC=CC=2C(SCC21)=O | C8H5NO3S
reactant | hydrochloric acid | 325 ml | Cl | ClH
product | 1,3-dihydro-1-oxobenzo[c]thiophene-4-amine hydrochloride | 57.7 g | Cl.O=C1SCC2=C1C=CC=C2N | InChI=1S/C8H7NOS.ClH/c9-7-3-1-2-5-6(7)4-11-8(5)10;/h1-3H,4,9H2;1H
